US08580972B2
5 g (15.8 mmol) of 3-[2-(4-chlorophenoxy)phenyl]-1-methylpyrrolidine-2,4-dione (compound IVb) was dissolved in a mixture of 150 mL of tetrahydrofuran and 15 mL of water. The solution was cooled to 0° C., and 4.3 g of potassium borohydride were added slowly, keeping the temperature below 10° C. The resulting solution was stirred at 0° C. for 6 hours. Then, a saturated solution of ammonium chloride was added, and the pH was adjusted to 3 with HCl 2 M. 100 mL of ethyl acetate were added. The organic phase was extracted, washed with saturated sodium bicarbonate and with water, dried and concentrated under vacuum, to obtain 4.5 g of 3-[2-(4-chlorophenoxy)phenyl]-4-hydroxy-1-methylpyrrolidine-2-one (compound XIIIb) as a sticky solid. Yield: 89.6%.

reactant | 3-[2-(4-chlorophenoxy)phenyl]-1-methylpyrrolidine-2,4-dione | 15.8 mmol, 5 g | ClC1=CC=C(OC2=C(C=CC=C2)C2C(N(CC2=O)C)=O)C=C1 | C17H14ClNO3
reactant | potassium borohydride | 4.3 g | [BH4-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | HCl | 2 M | Cl | ClH
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | water | 15 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-[2-(4-chlorophenoxy)phenyl]-4-hydroxy-1-methylpyrrolidine-2-one | 4.5 g, Yield: 89.6% | ClC1=CC=C(OC2=C(C=CC=C2)C2C(N(CC2O)C)=O)C=C1 | C17H16ClNO3
